US06451814B1
[4-(4-{2-[(2S)-2-Hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenylamino)-piperidin-1-yl]-(3-methoxy-benzo[b]thiophen-2-yl)-methanone
{4-[4-(2-Aminoethyl)anilino]-1-piperidinyl}(3-methoxy-1-benzothiophen-2-yl)methanone (0.189 g, 0.461 mmol) was reacted with tert-butyl-(4-oxiranylmethoxy-phenoxy)-diphenyl-silane (0.187 g, 0.461 mmol) according to Procedure G to give the title compound (0.119 g, 0.141 mmol).

reactant | {4-[4-(2-Aminoethyl)anilino]-1-piperidinyl}(3-methoxy-1-benzothiophen-2-yl)methanone | 0.461 mmol, 0.189 g | NCCC1=CC=C(NC2CCN(CC2)C(=O)C=2SC3=C(C2OC)C=CC=C3)C=C1 | C23H27N3O2S
reactant | tert-butyl-(4-oxiranylmethoxy-phenoxy)-diphenyl-silane | 0.461 mmol, 0.187 g | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)OC1=CC=C(C=C1)OCC1OC1 | C25H28O3Si
product | [4-(4-{2-[(2S)-2-Hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenylamino)-piperidin-1-yl]-(3-methoxy-benzo[b]thiophen-2-yl)-methanone | 0.141 mmol, 0.119 g | O[C@@H](CNCCC1=CC=C(C=C1)NC1CCN(CC1)C(=O)C1=C(C2=C(S1)C=CC=C2)OC)COC2=CC=C(C=C2)O | C32H37N3O5S
